US09062092B2
To a solution of (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-(2,2,2-trichloro-ethyl) ester (5.0 g, 10.8 mmol) in tetrahydrofuran/methanol (50 mL, 1:1) containing 3 Å molecular sieves at 0° C. was added tetra n-butylammonium fluoride (22 mL, 22 mmol, 1 M in tetrahydrofuran). After stirring at room temperature for 24 h, the mixture was filtered through a pad of Celite and the filtrate was evaporated. The residue was partitioned between diethyl ether and saturated sodium hydrogen carbonate solution. The aqueous layer was extracted with diethyl ether. The organic extracts were combined and the solution was filtered through a hydrophobic frit and the solvent was evaporated. The residue was purified by silica gel chromatography eluting with iso-hexanes/ethyl acetate 20:1 to 3:2 to afford (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-methyl ester (3.0 g, 82%) as a colorless oil and as a mixture of rotamers. LCMS (m/z) 345.1 [M+H], Tr=2.78 min. A solution of (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-methyl ester (3.0 g, 8.72 mmol) in tetrahydrofuran (20 mL) at −78° C. was treated with lithium bis(trimethylsilyl)amide (13 mL, 13.0 mmol, 1 M in tetrahydrofuran). After stirring at −78° C. for 1 h, the mixture was treated with iodomethane (1.4 mL, 22.5 mmol). The reaction mixture was stirred at −78° C. for 1 h, then at 0° C. for 1 h and at room temperature for 1 h. The reaction mixture was re-cooled to 0° C. and quenched with water. The aqueous phase was extracted with dichloromethane (2×) and the organic solution was passed through a hydrophobic frit and the solvent was evaporated. The residue was purified by silica gel chromatography eluting with a gradient of iso-hexanes/ethyl acetate 4:1 to 0:1 to afford the title compound (1.62 g, 52%) as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 1.41-1.52 (m, 18H), 1.53-1.67 (m, 4H), 1.71-1.99 (m, 3H), 3.17-3.51 (m, 1H), 3.70-3.81 (m, 3H), 3.90-4.21 (m, 1H). LCMS (m/z) 359.0 [M+H], Tr=2.90 min.

reactant | (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-(2,2,2-trichloro-ethyl) ester | 10.8 mmol, 5.0 g | ClC(COC(=O)[C@H]1N(N(CCC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)(Cl)Cl | C17H27Cl3N2O6
reactant | tetra n-butylammonium fluoride | 22 mmol, 1 M, 22 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran methanol | 50 mL | O1CCCC1.CO
product | (S)-tetrahydro-pyridazine-1,2,3-tricarboxylic acid 1,2-di-tert-butyl ester 3-methyl ester | 3.0 g, 82% | COC(=O)[C@H]1N(N(CCC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C16H28N2O6
